US07759339B2
2-(4-(2-Chlorophenylsulfonyl)piperazin-1-yl)thiazole-4-carboxamide
2-(4-(2-chlorophenylsulfonyl)piperazin-1-yl)thiazole-4-carboxylic acid (77 mg, 0.02 mmole), EDCI (39 mg, 0.02 mmole), HOBt (31 mg, 0.02 mmole) and ammonium formate (13 mg, 0.02 mmole) were combined in 1 ml of dry DMF. The mixture was treated with 1 equivalent of TEA and stirred at room temperature overnight. The title compound was obtained in yield of 37% after purification on preparative HPLC. 1H NMR (400 MHz, CHLOROFORM-D) δ ppm 3.41 (s, 1 H), 3.42-3.44 (m, 3 H), 3.53-3.56 (m, 3 H), 3.57 (s, 1 H), 6.02 (s, 1 H), 6.95 (s, 1 H), 7.38-7.44 (m, 2 H), 7.50-7.53 (m, 2 H), 8.02-8.07 (m, 1 H); ESI-MS: m/z 387.1 (M+H)+.

reactant | 2-(4-(2-chlorophenylsulfonyl)piperazin-1-yl)thiazole-4-carboxylic acid | 0.02 mmole, 77 mg | ClC1=C(C=CC=C1)S(=O)(=O)N1CCN(CC1)C=1SC=C(N1)C(=O)O | C14H14ClN3O4S2
reactant | EDCI | 0.02 mmole, 39 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.02 mmole, 31 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | ammonium formate | 0.02 mmole, 13 mg | C(=O)[O-].[NH4+]
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 2-(4-(2-Chlorophenylsulfonyl)piperazin-1-yl)thiazole-4-carboxamide | yield of 37% | ClC1=C(C=CC=C1)S(=O)(=O)N1CCN(CC1)C=1SC=C(N1)C(=O)N | C14H15ClN4O3S2
